US07273877B2
tert-Butyl (5-(aminocarbonyl)-4-(2-fluoro-4-iodoanilino)-2-oxo-1(2H)-pyridinyl)acetate (225 mg, 0.46 mmol) was dissolved in a mixture of CH2Cl2 (10 mL) and trifluoroacetic acid (10 mL) and stirred at R.T. for 2 h. All solvent was evaporated under a stream of nitrogen and the resulting oil was redissolved in MeOH (10 mL) to which was added sat. NaHCO3 (10 mL). This mixture was stirred at R.T for 1 h. then 1 M HCl (50 mL) added and the resulting white precipitate collected by filtration. Purification was carried out by recrystallisation from EtOAc/MeOH to afford (5-(aminocarbonyl)-4-(2-fluoro-4-iodoanilino)-2-oxo-1(2H)-pyridinyl)acetic acid as a white solid (76 mg, 38%), m.p. (EtOAc/MeOH) 296-300° C. 1H NMR [(CD3)2SO, 400 MHz] δ 13.10 (v br s, 1H), 10.42 (s, 1H), 8.32 (s, 1H), 7.86 (br s, 1H), 7.75 (dd, J=10.2, 1.9 Hz, 1H), 7.58 (dd, J=8.4, 0.8 Hz, 1H), 7.52 (br s, 1H), 7.30 (t, J=8.5 Hz, 1H), 5.53 (d, J=1.0 Hz, 1H), 4.49 (s, 2H). Anal. Calcd for C14H11FIN3O4.0.5H2O: C, 38.2; H, 2.7; N, 9.5. Found: C, 38.0; H, 2.4; N, 9.1.

reactant | tert-Butyl (5-(aminocarbonyl)-4-(2-fluoro-4-iodoanilino)-2-oxo-1(2H)-pyridinyl)acetate | 0.46 mmol, 225 mg | NC(=O)C=1C(=CC(N(C1)CC(=O)OC(C)(C)C)=O)NC1=C(C=C(C=C1)I)F | C18H19FIN3O4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (5-(aminocarbonyl)-4-(2-fluoro-4-iodoanilino)-2-oxo-1(2H)-pyridinyl)acetic acid | 76 mg, 38% | NC(=O)C=1C(=CC(N(C1)CC(=O)O)=O)NC1=C(C=C(C=C1)I)F | C14H11FIN3O4
